US06204255B1
166 g (1 mole) sodium valproate and 120 g (moisture content<5%, 0.09 mole) γ-cyclodextrin are blended and 20 mL water is added. The ingredients are thoroughly kneaded and the product is obtained by drying and grinding as described in Example 1. The moisture absorption after 24 hour storage at 40° C. under 75% relative humidity was found to be 30%, compared to 70% and 47% of sodium valproate itself and of the product obtained in a similar way with lactose instead of γ-cyclodextrin, respectively.

reactant | sodium valproate | 1 mole, 166 g | C(C(CCC)CCC)(=O)[O-].[Na+]
reactant | γ-cyclodextrin | 0.09 mole, 120 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
solvent | water | 20 mL | O | H2O
product | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
